US05530114
Leukotriene A4 hydrolase is determined by a direct enzyme assay of cytosolic fraction of cells treated with antisense oligonucleotides, as described by Ohishi et al. (J. Biol. Chem., 262:10200-10205, 1987). Briefly, HL-60 cells treated with antisense oligonucleotides are disrupted by sonication and cytosolic fraction isolated by centrifugation at 100,000× g for 1 hour. The reaction mixture contains 100 mM Tris-HCl buffer (pH=7.8) and enzyme in a total volume of 50 μL. After preincubating the enzyme for 3-4 minutes at 37° C., leukotriene A4 in ethanol containing lithium hydroxide was added to a final concentration of 75 μM and a final ethanol concentration of 2%. The enzyme was incubated for 1 minute at 37° C. and the reaction terminated by the addition of 100 μL of acetonitrile/methanol/acetic acid, 150:50:3 (v/v/v) containing 0.3 nmol prostaglandin B2 as an internal standard. Protein is precipitated by incubation at -20° C. for 30 minutes followed by centrifugation at 10,000× g for 10 minutes. A 120 μL aliquot of the supernatant was removed and 20 μL of 0.35% disodium EDTA is added. The amount of leukotriene B4 formed in 50 μL aliquot of the resulting solution is determined by reverse phase HPLC using a C18 column. Samples are eluted isocratically with solvent containing acetonitrile/methanol/water/acetic acid (3:1:3:0.006, v/v/v/v, 0.05% disodium EDTA). The absorbance at 270 nm is monitored to quantitate the amount of leukotriene B4 formed.

reactant | Leukotriene A4 | CCCCC/C=C\C/C=C\C=C\C=C\[C@H]1[C@@H](O1)CCCC(=O)O | C20H30O3
reactant | Tris-HCl | 100 mM, pH=7.8 | C(C(CO)(CO)N)O.Cl
reactant | lithium hydroxide | [OH-].[Li+]
reactant | prostaglandin B2 | 0.3 nmol | CCCCC[C@@H](/C=C/C1=C(C(=O)CC1)C/C=C\CCCC(=O)O)O | C20H30O4
solvent | ethanol | C(C)O | C2H6O
product | leukotriene B4 | CCCCC/C=C\C[C@H](/C=C/C=C/C=C\[C@H](CCCC(=O)O)O)O | C20H32O4
